US08404680B2
Intermediate IV-2: A solution of (3aS,6aS)-rel-1-(3a,4,6,6a-tetrahydro-furo[3,4-d]isoxazol-3-yl)-methanol (14.0 mmol) in dichloromethane (40 ml) was treated dropwise with a solution of (diethylamino)sulfur trifluoride (15.4 mmol) in dichloromethane (5 ml) at −70° C. The colorless turbid solution was stirred at −70° C. for 30 minutes and then allowed to warm to room temperature while its color turned to brown. After stirring for one hour the dark brown solution was cooled in an ice-bath and quenched with a saturated solution of sodium hydrogencarbonate (50 ml). The aqueous layer was separated and extracted twice with dichloromethane. The combined organic layers were dried over sodium sulphate, then evaporated. The crude product was purified by chromatography on silica gel using a gradient of heptane and ethyl acetate=100:0 to 80:20 as the eluent. The (3aS,6aS)-rel-3-fluoromethyl-3a,4,6,6a-tetrahydro-furo[3,4-d]isoxazole (814 mg, 40% yield) was obtained as a light yellow solid. MS: m/z=146.2 [M+H]+.

reactant | (3aS,6aS)-rel-1-(3a,4,6,6a-tetrahydro-furo[3,4-d]isoxazol-3-yl)-methanol | 14.0 mmol | O1N=C([C@@H]2[C@H]1COC2)CO | C6H9NO3
reactant | (diethylamino)sulfur trifluoride | 15.4 mmol | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (3aS,6aS)-rel-3-fluoromethyl-3a,4,6,6a-tetrahydro-furo[3,4-d]isoxazole | 814 mg, 40% yield | FCC1=NO[C@H]2[C@@H]1COC2 | C6H8FNO2
